US05891899
To a stirred solution of ethyl 3-methoxy-4-methoxycarbonylbenzoylacetate (4.1 g, 14.6 mmol) in a mixture of ethanol (30 ml) and acetic acid (30 ml) was added portionwise 9-hydroxyxanthene (3.2 g, 16.1 mmol). After stirring for 2 weeks at room temperature, the solution was concentrated in vacuo, diluted with water and extracted with dichloromethane (2×). The combined extracts were washed with a saturated solution of sodium bicarbonate, water and dried over magnesium sulphate. Filtration and evaporation gave ethyl 2-(9H-xanthen-9-yl)-2-(3-methoxy-4-methoxycarbonyl-benzoyl)acetate as an oil.

reactant | ethyl 3-methoxy-4-methoxycarbonylbenzoylacetate | 14.6 mmol, 4.1 g | COC=1C=C(C(=O)CC(=O)OCC)C=CC1C(=O)OC | C14H16O6
reactant | 9-hydroxyxanthene | 16.1 mmol, 3.2 g | OC1C2=CC=CC=C2OC=2C=CC=CC12 | C13H10O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | ethyl 2-(9H-xanthen-9-yl)-2-(3-methoxy-4-methoxycarbonyl-benzoyl)acetate | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(C(=O)OCC)C(C1=CC(=C(C=C1)C(=O)OC)OC)=O | C27H24O7
